US06673797B1
(3) Preparation of 1-(4-Fluorobenzyl)-5-methanesulfonyl-2-(3-pyridylmethyl)indole
1-(4-fluorobenzyl)-5-methanesulfonyl-2-nicotinoylindole (0.14 g), hydrazine monohydrate (0.17 g), potassium hydroxide (0.05 g) and ethylene glycol (3 ml) were added under nitrogen atmosphere and the mixture was stirred at 110° C. for 8 hours. To the reaction solution was added water, and the mixture was extracted with dichloromethane, washed with a saturated aqueous NaCl solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (hexane:ethyl acetate=1:3) to obtain 13 mg of the desired product.

reactant | 1-(4-fluorobenzyl)-5-methanesulfonyl-2-nicotinoylindole | 0.14 g | FC1=CC=C(CN2C(=CC3=CC(=CC=C23)S(=O)(=O)C)C(C2=CN=CC=C2)=O)C=C1 | C22H17FN2O3S
reactant | hydrazine monohydrate | 0.17 g | O.NN
reactant | potassium hydroxide | 0.05 g | [OH-].[K+]
reactant | ethylene glycol | 3 ml | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 1-(4-Fluorobenzyl)-5-methanesulfonyl-2-(3-pyridylmethyl)indole | 13 mg | FC1=CC=C(CN2C(=CC3=CC(=CC=C23)S(=O)(=O)C)CC=2C=NC=CC2)C=C1 | C22H19FN2O2S
